US05661161
Step F: Preparation of N-[1-(4-imidazoleacetyl)pyrrolidin-2(S)-ylmethyl]-N-(1-naphthylmethyl)glycyl-methionine methyl ester
N-(pyrrolidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride (0.200 g, 0.387 mmol), imidazoleacetic acid hydrochloride (0.094 g, 0.581 mmol), hydroxybenzotriazole hydrate (0.086 g, 0.639 mmol), EDC hydrochloride (0.134 g, 0.697 mmol) and TEA (0.340 mL, 2.44 mmol) were dissolved in dry DMF (4 mL) and stirred under Ar for 3 h. The mixture was concentrated in vacuo and the residue taken up in aq satd NaHCO3 soln and extracted with EtOAc (2×40 mL). The organics were washed with H2O and brine, dried over MgSO4, filtered and the solvent removed in vacuo to give an oil which was chromatographed on silica gel (5:95 MeOH:CH2Cl2) to give the title compound. 1H NMR (CD3OD) δ 8.32 (d, 1H, J=8 Hz), 7.90 (d, 1H, J=8 Hz), 7.83 (d, 1H, J=8 Hz), 7.39-7.62 (m, 5H), 6.92 (br s, 1H), 4.34-4.52 (m, 3H), 3.94 (d, 1H, J=13 Hz), 3.59-3.78 (m, 2H), 3.67 (s, 3H), 3.21-3.56 (m, 6H), 2.93 (dd, 1H, J=4, 13 Hz), 2.51 (dd, 1H, J=9, 13 Hz), 2.02-2.14 (m, 1H), 1.68-2.02 (m, 6H), 1.92 (s, 3H), 1.39-1.52 (m, 1H).

reactant | N-(pyrrolidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride | 0.387 mmol, 0.200 g | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]1NCCC1)=O)CCSC)=O
reactant | imidazoleacetic acid hydrochloride | 0.581 mmol, 0.094 g | Cl.N1C(=NC=C1)CC(=O)O
reactant | hydroxybenzotriazole hydrate | 0.639 mmol, 0.086 g | O.OC1=CC=CC=2NN=NC21
reactant | EDC hydrochloride | 0.697 mmol, 0.134 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-imidazoleacetyl)pyrrolidin-2(S)-ylmethyl]-N-(1-naphthylmethyl)glycyl-methionine methyl ester | COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]1N(CCC1)C(CC=1N=CNC1)=O)=O)CCSC)=O | C29H37N5O4S
